US04362510
Hexyl vanillate was synthesized according to the method of Pearl, I.A., and McCoy, J. F. "Reaction of Vanillin and its Derived Compounds. Some Esters of Vanillic Acid." J. AM. CHEM. SOC. 69: 3071 (1947). Vanillic acid (20.2 g, 0.12 mol) was refluxed with n-hexanol (29.9 ml, 0.24 mol) in the presence of p-toluenesulfonic acid (0.2 g) for 26 hours. After the unreacted alcohol was removed by distillation in a vacuum, the hexyl vanillate was distilled and obtained in 86% yield.

reactant | Vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | Vanillic Acid | C(C1=CC(OC)=C(O)C=C1)(=O)O | C8H8O4
reactant | Vanillic acid | 0.12 mol, 20.2 g | C(C1=CC(OC)=C(O)C=C1)(=O)O | C8H8O4
reactant | n-hexanol | 0.24 mol, 29.9 ml | C(CCCCC)O | C6H14O
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Hexyl vanillate | 86% yield | C(C1=CC(OC)=C(O)C=C1)(=O)OCCCCCC | C14H20O4
